data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
960,1043,[CH3:13][NH:14][C:15](=[O:16])[C-:17]([C:18]#[N:19])[O+:20]=[CH:21][C:22]#[N:23].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:17]([C:15]([NH:14][CH3:13])=[O:16])([C:18]#[N:19])[O:20][CH:21]2[C:22]#[N:23],water,298.15,4.265935881675339,-52.7848616108337
1539,1699,[CH3:14][O:15][C:16](=[O:17])[C:18]([C:19]([CH3:20])=[O:21])=[N+:22]([CH3:23])[N-:24][C:25]([CH3:26])=[O:27].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]([CH3:7])=[O:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]([CH3:7])=[O:8])[CH:9]2[CH:10]3[CH:11]([CH:12]1[O:13]2)[N:24]([C:25]([CH3:26])=[O:27])[N:22]([CH3:23])[C:18]3([C:16]([O:15][CH3:14])=[O:17])[C:19]([CH3:20])=[O:21],water,298.15,15.6330794682354,-38.3212444766509
1315,1442,[CH3:11][NH:12][C:13](=[O:14])[C:15](=[O+:16][C-:17]([C:18]([CH3:19])=[O:20])[C:21]([CH3:22])=[O:23])[C:24]([CH3:25])=[O:26].[N:1]#[C:2][C:3]1=[C:4]([F:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[N:1]#[C:2][C:3]1=[C:4]([F:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[C:15]([C:13]([NH:12][CH3:11])=[O:14])([C:24]([CH3:25])=[O:26])[O:16][C:17]3([C:18]([CH3:19])=[O:20])[C:21]([CH3:22])=[O:23],water,298.15,14.535758734023506,-57.287414837972825
4707,5372,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][C:6](=[NH+:7][C-:8]([c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1)[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[C:8]([c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[NH:7][C:6]1([CH3:5])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,25.78045815125116,-16.603270128563828
3578,4084,[CH3:10][O:11][C:12](=[O:13])[C-:14]([CH3:15])[N+:16]#[C:17][C:18]#[N:19].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:17]([C:18]#[N:19])=[N:16][C:14]1([C:12]([O:11][CH3:10])=[O:13])[CH3:15],water,298.15,14.141371244701086,-35.64470414655778
4196,4800,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C-:15]([O+:16]=[CH:17][C:18]#[N:19])[C:20]([CH3:21])=[O:22]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[CH:17]([C:18]#[N:19])[O:16][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[C:20]([CH3:21])=[O:22],water,298.15,5.5333397609700725,-51.84741968797967
3475,3957,[CH2:10]=[O+:11][C-:12]([C:13]#[N:14])[C:15](=[O:16])[NH:17][CH3:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:12]([C:13]#[N:14])([C:15](=[O:16])[NH:17][CH3:18])[O:11][CH2:10]1,water,298.15,4.94021140811,-39.18956431927875
272,296,[CH3:11][C:12](=[O:13])[CH-:14][N+:15]([CH3:16])=[CH:17][C:18]#[N:19].[CH3:1][O:2][C:3]1=[C:4]([CH3:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]12[C:4]([CH3:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[CH:14]([C:12]([CH3:11])=[O:13])[N:15]([CH3:16])[CH:17]2[C:18]#[N:19],water,298.15,12.733129952597237,-35.05780974575235
2652,2941,[CH3:13][NH:14][C:15](=[O:16])[C-:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[N+:24]([CH3:25])=[C:26]([CH3:27])[CH3:28].[CH3:1][C:2]1([Cl:3])[C:4]#[C:5][C:6]([Br:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1>>[CH3:1][C:2]1([Cl:3])[C:4]2=[C:5]([C:6]([Br:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1)[C:17]([C:15]([NH:14][CH3:13])=[O:16])([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[N:24]([CH3:25])[C:26]2([CH3:27])[CH3:28],water,298.15,28.300619023956656,-28.20654973223873
2988,3340,[CH2:1]=[CH2:2].[CH:3]#[N+:4][C-:5]([C:6](=[O:7])[NH:8][CH3:9])[C:10](=[O:11])[O:12][CH3:13]>>[CH2:1]1[CH2:2][C:5]([C:6](=[O:7])[NH:8][CH3:9])([C:10](=[O:11])[O:12][CH3:13])[N:4]=[CH:3]1,water,298.15,13.033940760546615,-47.0050518012641
2239,2484,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]#[C:11][C:12]([F:13])([C:14]([CH3:15])=[O:16])[CH2:17][CH2:18][CH2:19][CH2:20]1.[CH3:21][O:22][C:23](=[O:24])[CH:25]=[N+:26]([CH3:27])[N-:28][C:29]([CH3:30])=[O:31]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]2=[C:11]([C:12]([F:13])([C:14]([CH3:15])=[O:16])[CH2:17][CH2:18][CH2:19][CH2:20]1)[N:28]([C:29]([CH3:30])=[O:31])[N:26]([CH3:27])[CH:25]2[C:23]([O:22][CH3:21])=[O:24],water,298.15,14.232485555499892,-42.80953747237072
1211,1320,[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]#[C:7][C:8]([Cl:9])([Cl:10])[CH2:11][CH2:12][CH2:13][CH2:14]1.[NH:15]=[NH+:16][N-:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]2=[C:7]([C:8]([Cl:9])([Cl:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[N:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[NH:16][NH:15]2,water,298.15,20.851216095709656,-32.52540501562984
